US07776910B2
Methyl bromoacetate (47 L, 0.495 mmol), followed by potassium carbonate (136.7 mg, 0.99 mmol) were added to a solution of 3-[4-(3-fluoro-benzenesulfonyl)-2-hydroxy-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (198.7 mg, 0.471 mmol) in acetone (5 mL) under argon atmosphere. The reaction mixture was stirred at room temperature for 4 hours, then filtered and the solvent was evaporated under reduced pressure to give 240.9 mg of 3-[4-(3-fluoro-benzenesulfonyl)-2-methoxycarbonylmethoxy-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester, which was used without further purification in the next step.

reactant | Methyl bromoacetate | 0.495 mmol, 47 L | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 0.99 mmol, 136.7 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-[4-(3-fluoro-benzenesulfonyl)-2-hydroxy-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.471 mmol, 198.7 mg | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)F)O | C21H24FNO5S
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 3-[4-(3-fluoro-benzenesulfonyl)-2-methoxycarbonylmethoxy-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 240.9 mg | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)F)OCC(=O)OC | C24H28FNO7S
